US07078401B2
To a suspension of NaH (4.2 g) in 100 mL of dry DMF under nitrogen was slowly added 14.02 g of 4-methoxythiophenol. The reaction mix was stirred until no further gas evolution occurred (circa 20 minutes). To this solution was added 15.76 g of 4-chloronitrobenzene dissolved in 100 ml of dry DMF, after which the mixture was heated to 120° C. for one hour. The reaction mix became red in colour during this time. The mixture was then cooled to room temperature and poured over 1000 g of crushed ice. The resulting yellow solid was filtered, washed several times with water, and dried to afford 25.29 g (96%) of 4-(4-methoxy-phenylsulfanyl)-nitrobenzene as a yellow solid. MS M+H; 264.

reactant | NaH | 4.2 g | [H-].[Na+]
reactant | 4-methoxythiophenol | 14.02 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | 4-chloronitrobenzene | 15.76 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(4-methoxy-phenylsulfanyl)-nitrobenzene | 25.29 g, 96% | COC1=CC=C(C=C1)SC1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO3S
